US05804559
5.3 g of acrylonitrile were slowly added to 4.4 g of N,N'-dimethyl-ethylenediamine, while cooling with ice. The mixture was allowed to warm slowly to RT and was stirred at RT for 14 hours. It was heated at 80° C. for 3 hours and the volatile constituents were then removed in vacuo at a bath temperature of 80° C. 9.6 g of N,N'-bis-(2-cyanoethyl)-N,N'-dimethyl-ethylenediamine were obtained.

reactant | acrylonitrile | 5.3 g | C(C=C)#N | C3H3N
reactant | N,N'-dimethyl-ethylenediamine | 4.4 g | CNCCNC | C4H12N2
product | N,N'-bis-(2-cyanoethyl)-N,N'-dimethyl-ethylenediamine | 9.6 g | C(#N)CCN(CCN(C)CCC#N)C | C10H18N4
